US04816487
4-decyloxy-2-hydroxy-caprophenone-oxime:
20.8 g (0.1 Mol) of 2,4-dihydroxycaprophenone together with 32 g (0.145 Mol) of n-decylbromide and 14 g of anhydrous potassium carbonate in 150 ml of dried acetone, as in Example 11, were converted to ketone, between 45° C. and 47° C. in flash point, which, in absence of potassium acetate, reacted with hydroxylamine hydrochloride in ethanolic solution to oxime, 57° C. in flash point (ethanol/water).

reactant | 2,4-dihydroxycaprophenone | 0.1 Mol, 20.8 g | OC(C(=O)C1=CC=CC=C1)CC(CC)O | C12H16O3
reactant | n-decylbromide | 0.145 Mol, 32 g | C(CCCCCCCCC)Br | C10H21Br
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ethanol water | C(C)O.O
product | 4-decyloxy-2-hydroxy-caprophenone-oxime | C(CCCCCCCCC)OC(CC(C(C1=CC=CC=C1)=NO)O)CC | C22H37NO3
